US04537966
Preparation of 1-(o-Methylaminobenzoyl)-5-amino-1H-indazol-3-ol
To 1.5 g. of 1-(2-methylaminobenzoyl)-5-nitro-1H-indazol-3-ol, prepared in Example 19, suspended in 500 ml. of absolute EtOH was added 1.0 g. of 5% Pd/C and the mixture was hydrogenated at 50 psi for 20 hours. The catalyst was filtered off, washed with absolute EtOH and the filtrate evaporated to afford a semi-solid. Recrystallization from EtOH afforded 0.48 g. (35.4%) of the amine as a tan amorphous powder; mp. 169°-170° C.

reactant | 1-(2-methylaminobenzoyl)-5-nitro-1H-indazol-3-ol | CNC1=C(C(=O)N2N=C(C3=CC(=CC=C23)[N+](=O)[O-])O)C=CC=C1 | C15H12N4O4
catalyst | Pd/C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 1-(o-Methylaminobenzoyl)-5-amino-1H-indazol-3-ol | CNC1=C(C(=O)N2N=C(C3=CC(=CC=C23)N)O)C=CC=C1 | C15H14N4O2
